US03932318
To a suspension of 10.8 g. of the triphenylphosphine/cyanogen chloride reaction product, (C6H5)3P(CN)Cl in 100 ml. of benzene at 5°-10°C. was added a solution of 4.2 g. of p-methylthiophenol in 15 ml. of benzene. After addition was complete, the clear solution was held at 45°C. for 20 minutes. The benzene was removed in vacuo at room temperature to leave p-methylphenylthiotriphenylphosphonium chloride.

reactant | triphenylphosphine cyanogen chloride | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.N#CCl
reactant | p-methylthiophenol | CC1=CC=C(C=C1)S | C7H8S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | p-methylphenylthiotriphenylphosphonium chloride | [Cl-].CC1=CC=C(C=C1)S[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C25H22PS.ClH/c1-21-17-19-25(20-18-21)27-26(22-11-5-2-6-12-22,23-13-7-3-8-14-23)24-15-9-4-10-16-24;/h2-20H,1H3;1H/q+1;/p-1
